### PR TITLE
[Merged by Bors] - chore: make argument in `bddAbove_of_small` implicit

### PR DESCRIPTION
**Pull request by vihdzp**
We use the theorem with an implicit argument much more (~80 times) than we use it with an explicit one (twice).

We also deprecate the redundant `bddAbove_range` lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/Finite.lean [hunk 1]
```diff
@@ -191,7 +191,7 @@ lemma exists_finset_linearIndependent_of_le_rank {n : ℕ} (hn : n ≤ Module.ra
     ∃ s : Finset M, s.card = n ∧ LinearIndepOn R id (s : Set M) := by
   rcases hn.eq_or_lt with h | h
   · obtain ⟨⟨s, hs⟩, hs'⟩ := exists_eq_ciSup_of_not_isSuccLimit
-      (Cardinal.bddAbove_range _) (h.trans (Module.rank_def R M) ▸ not_isSuccLimit_natCast n)
+      Cardinal.bddAbove_range (h.trans (Module.rank_def R M) ▸ not_isSuccLimit_natCast n)
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/Dimension/Finite.lean]:
```suggestion
      Cardinal.bddAbove_of_small (h.trans (Module.rank_def R M) ▸ not_isSuccLimit_natCast n)
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by fpvandoorn** [comment]
LGTM

bors merge
